US04051138
B. Preparation of 1-amino-2-methylanthraquinone
The wet filter cake of 1-nitro-2-methylanthraquinone (0.45 mole) was placed in a 5 l flask. To the flask was added 420 g (1.75 mole) of Na2S·9H2O dissolved in 2.5 l of H2O and the slurry was heated and then stirred at 95°-99° C for 2 hours. The reaction mixture was filtered and the orangish-red solid 1-amino-2-methylanthraquinone product was washed with hot H2O until the filtrate was clear and dried in vacuo at 70° C.

reactant | 1-nitro-2-methylanthraquinone | 0.45 mole | [N+](=O)([O-])C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C | C15H9NO4
solvent | H2O | 2.5 l | O | H2O
product | 1-amino-2-methylanthraquinone | NC1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C | C15H11NO2
